US07713993B2
(1) Synthesis of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-N-(2-oxo-2-phenylethyl)acrylic acid amide
Diethyl cyanophosphonate (0.12 mL) was added to a solution of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid (200 mg) and triethylamine (0.22 mL) in DMF (1 mL) at 0° C. The reaction solution was stirred at 0° C. for 30 minutes, and then α-aminoacetophenone hydrochloride (133 mg) was added in small portions to the reaction solution over 30 minutes. The reaction solution was stirred at 0° C. for 2.5 hours. Then, ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex™ NH; elution solvent: ethyl acetate->ethyl acetate:methanol=5:1) to obtain 200 mg of the title compound. The property values of the compound are as follows.

reactant | Diethyl cyanophosphonate | 0.12 mL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | 200 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)O | C14H14N2O3
reactant | α-aminoacetophenone hydrochloride | 133 mg | Cl.NCC(=O)C1=CC=CC=C1
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.22 mL | C(C)N(CC)CC | C6H15N
product | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-N-(2-oxo-2-phenylethyl)acrylic acid amide | 200 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)NCC(C1=CC=CC=C1)=O | C22H21N3O3
